US05495020
To 2,3,6-trifluoro-4-chloro-5-nitrotoluene (0.17 g) are added ethanol (3.3 ml), water (0.5 ml), N-methylpiperazine (0.45 ml) and triethylamine (0.56 ml) and the mixture is refluxed for 24 hours. After the reaction is completed, water is added to the reaction mixture and the mixture is extracted with diethyl ether, and the extract is washed with water and dried. The solvent is distilled off under reduced pressure and the residue is purified by silica-gel column-chromatography (eluent; dichloromethane: methanol=20 : 1) to give 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-chloro-5-nitrotoluene (0.13 g).

reactant | 2,3,6-trifluoro-4-chloro-5-nitrotoluene | 0.17 g | FC1=C(C(=C(C(=C1F)Cl)[N+](=O)[O-])F)C | C7H3ClF3NO2
reactant | ethanol | 3.3 ml | C(C)O | C2H6O
reactant | N-methylpiperazine | 0.45 ml | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
solvent | triethylamine | 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | water | 0.5 ml | O | H2O
product | 2-(4-methyl-1-piperazinyl)-3,6-difluoro-4-chloro-5-nitrotoluene | 0.13 g | CN1CCN(CC1)C1=C(C(=C(C(=C1F)Cl)[N+](=O)[O-])F)C | C12H14ClF2N3O2
